US08461163B2
3-methyl-3-(4-(2-methyl-7-phenylpyrazolo[1,5-a]pyrimidin-5-ylcarbamoyl)phenyl)butanoic acid (344)
In a 50 ml pear flask was added methyl 3-methyl-3-(4-(2-methyl-7-phenylpyrazolo[1,5-a]pyrimidin-5-ylcarbamoyl)phenyl)butanoate (30 mg, 0.068 mmol) in methanol (2 ml) to give a tan solution. To this mixture at room temperature, lithium hydroxide (2N solution) (2 ml, 4.0 mmol) was added. The reaction progress was carefully monitored by HPLC because hydrolysis was a significant competing side reaction. After 2.5 h, most of the starting material has been consumed. The reaction mixture was acidified to pH ˜3 with 2N HCl. The resulting suspension was partitioned between brine and ethyl acetate, and the aqueous layer was extracted one more time with ethyl acetate. Combined organic layers were dried over MgSO4, filtered and concentrated. The crude product was purified by preparatory HPLC (55-80% MeCN/H2O gradient+0.01% TFA). Lyophilization of the collected fractions gave the titled product (9.9 mg, 34% yield). 1H NMR (DMSO-d6) δ: 11.91 (s, 2H), 11.20 (s, 2H), 8.04-8.08 (m, 3H), 8.02 (d, J=8.8 Hz, 3H), 7.96 (s, 2H), 7.60-7.66 (m, 5H), 7.54 (d, J=8.8 Hz, 2H), 6.40 (s, 1H), 2.66 (s, 2H), 2.40 (s, 3H), 1.41 (s, 6H); ESI-MS: m/z 429.3 (M+H)+.

reactant | methyl 3-methyl-3-(4-(2-methyl-7-phenylpyrazolo[1,5-a]pyrimidin-5-ylcarbamoyl)phenyl)butanoate | 0.068 mmol, 30 mg | CC(CC(=O)OC)(C)C1=CC=C(C=C1)C(NC1=NC=2N(C(=C1)C1=CC=CC=C1)N=C(C2)C)=O | C26H26N4O3
reactant | lithium hydroxide | 4.0 mmol, 2N, 2 ml | [OH-].[Li+]
solvent | methanol | 2 ml | CO | CH4O
product | 3-methyl-3-(4-(2-methyl-7-phenylpyrazolo[1,5-a]pyrimidin-5-ylcarbamoyl)phenyl)butanoic acid | 9.9 mg, 34% yield | CC(CC(=O)O)(C)C1=CC=C(C=C1)C(NC1=NC=2N(C(=C1)C1=CC=CC=C1)N=C(C2)C)=O | C25H24N4O3
